US05852010
Preparation of 3-[5-Oxo-pyrrolidine-2(S)-carbonylamino]-2,3-dihydro-2-oxo-5-phenyl-1H -1,4-benzodiazepine
A solution of 3-amino-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine hydrogen bromide (142 mg, 0.426 mmol), prepared by sequential treatment of an aqueous acetonitrile solution of the 4-methoxybenzyl derivative from example 5 with ammonium cerium IV nitrate, potassium tartrate solution and HBr/acetic acid--(L)-pyroglutamic acid (60.2 mg, 0.466 mmol), EDC (91 mg, 0.473 mmol), HOBT (63.5 mg, 0.473 mmol), and diisopropylethylamine (0.082 ml, 0.473 mmol) in DMF (5 ml) was stirred at room temperature for 18 hours. The resultant solution was concentrated in vacuo, and the residue partitioned between ethyl acetate and aqueous sodium bicarbonate solution. The organic extract was washed with brine, dried, (MgSO4), filtered, and concentrated. The residue was purified by preparative HPLC (C18, eluted with a 5:95 to 40:60 water:acetonitrile). Lyophilization provided the titled compound as a 1:1 mixture of diastereomers.

reactant | 3-amino-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine hydrogen bromide | 0.426 mmol, 142 mg | Br.NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O
reactant | ammonium cerium IV nitrate | [NH4+].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[Ce+4]
reactant | potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[K+]
reactant | HBr acetic acid | Br.C(C)(=O)O
reactant | (L)-pyroglutamic acid | 0.466 mmol, 60.2 mg | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | EDC | 0.473 mmol, 91 mg
reactant | HOBT | 0.473 mmol, 63.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.473 mmol, 0.082 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[5-Oxo-pyrrolidine-2(S)-carbonylamino]-2,3-dihydro-2-oxo-5-phenyl-1H -1,4-benzodiazepine | O=C1CC[C@H](N1)C(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C20H18N4O3
